US04122287
Upon intermixing of 2,6-di-tert.butyl-4-methylphenol, formaldehyde and dimethylamine in an alcoholic medium at a temperature within the range of from 80° to 90° C. a condensation reaction occurs resulting in the formation of N,N-dimethyl-3,5-di-tert.butyl-4-hydroxybenzylamine. Along with the latter, formed are readily-volatile reaction products, i.e., water and bis-amine. In addition, alcohol is contained in the reaction mass. The thus-selected temperature range is optimal. When temperature is decreased below the lower limit, the reaction rate of condensation is substantially reduced. Upon increasing temperature above 90° C., decomposition of the Mannich base is observed.

reactant | 2,6-di-tert.butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
product | N,N-dimethyl-3,5-di-tert.butyl-4-hydroxybenzylamine | CN(C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H29NO
